US08937073B2
1c) n-butyl(S)-3-[(6-oxo-1,6-dihydro-pyridazine-4-carbonyl)-amino]-tetrahydrofuran-3-carboxylate
A solution of 6-oxo-1,6-dihydro-pyridazine-4-carboxylic acid (10.5 g, 74.9 mmol), TBTU (25.3 g, 78.7 mmol), triethylamine (20.9 mL) and 40 mL DMF in 200 mL THF was stirred for 30 minutes at ambient temperature. Then n-butyl(S)-3-amino-tetrahydrofuran-3-carboxylate (14.0 g, 74.9 mmol) was added and the mixture was stirred further overnight. For working up the mixture was evaporated to dryness in vacuo and the residue was stirred with 200 mL ethyl acetate. This solution was washed twice with 5% sodium hydrogen carbonate solution, then dried and evaporated down.

reactant | 6-oxo-1,6-dihydro-pyridazine-4-carboxylic acid | 74.9 mmol, 10.5 g | O=C1C=C(C=NN1)C(=O)O | C5H4N2O3
reactant | TBTU | 78.7 mmol, 25.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 20.9 mL | C(C)N(CC)CC | C6H15N
reactant | n-butyl(S)-3-amino-tetrahydrofuran-3-carboxylate | 74.9 mmol, 14.0 g | N[C@@]1(COCC1)C(=O)OCCCC | C9H17NO3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | n-butyl(S)-3-[(6-oxo-1,6-dihydro-pyridazine-4-carbonyl)-amino]-tetrahydrofuran-3-carboxylate | O=C1C=C(C=NN1)C(=O)N[C@@]1(COCC1)C(=O)OCCCC | C14H19N3O5
